US04990531
1-(4-tert-butyl benzenesulphonyl)-2-pyrrolidinone
1.65 g of 2-pyrrolidinone in solution in 75 cm3 of tetrahydrofuran is cooled to -5° C., and 12.1 cm3 of a 1.6M solution of n-butyllithium in hexane is added, maintaining the temperature between -5° C. and 0° C. Agitation is carried out for 25 minutes at -5° C.; the mixture is cooled to -20° C. and 4.5 g of 4-tert-butyl-phenylsulphonyl chloride is added [Recueil Trav. Chim. Pays-Bas, 53, 1101 (1934)]. After allowing to return to ambient temperature, the tetrahydrofuran is evaporated off under reduced pressure, the residue is taken up with water, filtered and crystallized from ethanol. 2.75 g of expected product is obtained.

reactant | 2-pyrrolidinone | 1.65 g | N1C(CCC1)=O | C4H7NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-tert-butyl-phenylsulphonyl chloride | 4.5 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | tetrahydrofuran | 75 cm3 | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(4-tert-butyl benzenesulphonyl)-2-pyrrolidinone | 2.75 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O | C14H19NO3S
